US05464788
1-(2-methoxy-4-(1-Boc-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide (423 mg, 0.75 mmol) was stirred in ethyl acetate (4 ml) in an ice bath under nitrogen. A cold, saturated solution (4 ml) of HCl in ethyl acetate was added and the mixture stirred in the cold for 45 min. Nitrogen gas was passed through the mixture for 1 hour, and the reaction was concentrated in vacuo. The residue was reconcentrated from methanol and from ether to give 1-(2-methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide dihydrochloride.

reactant | 1-(2-methoxy-4-(1-Boc-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide | 0.75 mmol, 423 mg | COC1=C(C=CC(=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C31H42N4O6
reactant | HCl | 4 ml | Cl | ClH
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-methoxy-4-(4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)piperazine-2-carboxamide dihydrochloride | Cl.Cl.COC1=C(C=CC(=C1)OC1CCNCC1)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | InChI=1S/C26H34N4O4.2ClH/c1-18-5-3-4-6-22(18)29-13-14-30(23(17-29)26(27)32)25(31)15-19-7-8-21(16-24(19)33-2)34-20-9-11-28-12-10-20;;/h3-8,16,20,23,28H,9-15,17H2,1-2H3,(H2,27,32);2*1H
